US05177102
5-{[(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraen-1-yl)amino]methyl}-1-azabicyclo[3.3.0]octane
Under an atmosphere of argon, a solution of 1-bromo-3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraene [6.90 g, 19.5 mmol, prepared as described in Example 5-a)] in 138 ml of ethanol was added in dropwise to a solution of 5-aminomethyl-1-azabicyclo[3.3.0]octane (3.3 g, 23.6 mmol) in 35 ml of ethanol at the temperature below 0° C. The reaction mixture was allowed to warm slowly from 0°-20° C. and then stirred at 20°-25° C. for 5 hours. The resulting solution was treated as described in Example 8 to afford 4.0 g (49.8%) of the desired compound, as a pale brown oil.

reactant | 1-bromo-3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraene | BrCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C | C20H33Br
reactant | 5-aminomethyl-1-azabicyclo[3.3.0]octane | 23.6 mmol, 3.3 g | NCC12CCCN2CCC1 | C8H16N2
solvent | ethanol | 138 ml | C(C)O | C2H6O
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 5-{[(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraen-1-yl)amino]methyl}-1-azabicyclo[3.3.0]octane | 4.0 g, 49.8% | CC(=CCNCC12CCCN2CCC1)CCC=C(CCC=C(CCC=C(C)C)C)C | C28H48N2
